US06437184B1
Then, 19.9 g of 3,5-diethyl-4-(4-(2,2-diethoxyethoxy)butyloxy)phenol, 9.20 g of 1,1,3-trichloro-1-propene, 9.15 g of potassium carbonate, and 200 ml of N,N-dimethylformamide were placed in a reaction vessel. After stirring at room temperature for 24 hours, the reaction mixture was poured into water, and extracted twice with diethyl ether. The diethyl ether layers were combined, washed with water, dried over anhydrous magnesium, and concentrated to give a residue. This residue was subjected to silica gel chromatography, which afforded 25.4 g (yield, 91%) of 3,5-diethyl-1-(3,3-dichloro-2-propenyloxy)-4-(4-(2,2-diethoxyethoxy)butyloxy)benzene, nD26.0 1.4991.

reactant | 3,5-diethyl-4-(4-(2,2-diethoxyethoxy)butyloxy)phenol | 19.9 g | C(C)C=1C=C(C=C(C1OCCCCOCC(OCC)OCC)CC)O | C20H34O5
reactant | 1,1,3-trichloro-1-propene | 9.20 g | ClC(=CCCl)Cl | C3H3Cl3
reactant | potassium carbonate | 9.15 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 3,5-diethyl-1-(3,3-dichloro-2-propenyloxy)-4-(4-(2,2-diethoxyethoxy)butyloxy)benzene | 25.4 g, 91% | C(C)C=1C=C(C=C(C1OCCCCOCC(OCC)OCC)CC)OCC=C(Cl)Cl | C23H36Cl2O5
